Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
anbormal lfts
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
PRIMARY ONCOLOGIST: Dr ___ 
___: Metastatic clear cell renal cell carcinoma 
TREATMENT: ___, randomized to sunitinib 50 mg PO daily x 4
weeks followed by 2 weeks off. Dose reduced sunitinib to 37.5 mg
daily. Cycle 25, Week 1.
CHIEF COMPLAINT: Abnormal LFTs 

HISTORY OF PRESENT ILLNESS:
Mr. ___ is a pleasant ___ w/ ID-T2DM, HTN, DL, BPH, and
metastatic clear cell RCC, s/p radical L nephrectomy in ___,
found to have pulmonary, mediastinal, and hilar mets ___, now
on ___, randomized to sunitinib, dose-reduced, currently 2
weeks off sunitinib per protocol, who is directly admitted from
clinic for abnormal LFTs found on routine lab screening. 

He feels tired but has no localizing symptoms. He did not have
any F/C, no abd pain, no N/V. Appeared mildly lethargic today
after he took his Ativan today for anxiety related coming into
___. His family reported ___ episodes of confusion since his
last clinic visit. He states he's had greasy foods lately 
without
any n/v, no abd pain. He drinks a couple beers a week during his
weeks off sunitinib. No new meds. No apap/nsaids. No recent
travel. No camping. 

REVIEW OF SYSTEMS:
10 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
-___: presented with acute onset of gross hematuria
accompanied with some mild flank pain. During his workup, he was
found to have a 4.8 cm mass on a CAT scan dated ___,
specifically the scan describes a left renal mass with internal
enhancement measuring 4.1 x 4.8 cm in size in the mid and upper
pole of the left kidney. Also described was the fat-containing
left inguinal hernia and left perinephric stranding. There was 
no
adenopathy or other suspicious lesions. There is also an old
sclerotic right ilial lesion and left sacral lesion. 
-___: underwent a laparoscopic hand assisted radical right
nephrectomy by Dr. ___ pathology showed a 
renal
cell carcinoma, clear cell type, ___ grade II/IV measuring 4
cm extending but not invading through the renal capsule or
Gerota's fascia margins were questionably positive at the renal
vein and otherwise negative. On review of pathology here at ___, the margins are described as negative including the 
renal
vein margin. A background of global glomerulosclerosis is
described. Overall, this was a T3bNxMx lesion. Postoperative
imaging on ___ which was a CT torso showed no evidence of
recurrent or metastatic disease.
-___: CT chest showed interval increase in prominence of
mediastinal lymph nodes and minimal interval increase in 
multiple
b/l pulmonary nodules, concerning for progression
-___: Fine needle aspirate of 11R and 11L lymph nodes, which
was consistent with metastatic RCC
-___: CT Torso - mediastinal and hilar nodes and pulmonary
lesions increased in size. No definite intra-abdominal sites of
disease 
-___: C1D1 ___, randomized to sunitinib
-___: Multiple grade ___ adverse events including
thrombocytopenia (grade 2; platelet 52,000), leukopenia (grade 
2;
WBC 2.9), elevated lipase (grade 1), elevated amylase (grade 1;
elevated at baseline), elevated ALT (grade 1), and 
hypothyroidism
(grade 1). Mild symptoms with treatment. Continued sunitinib at
50mg daily per protocol.
-___: CT Torso: Response of mediastinal lymphadenopathy,
bilateral hilar lymphadenopathy, and numerous parenchymal
metastases. Stable disease by RECIST (decrease 19.1% from
baseline).
-___: Sunitinib reduced to 37.5 mg daily due to erythematous
rash and blistering on palms and sole of right foot.
-___: CT Torso: Decrease in pulmonary and mediastinal
lesions. Stable disease by RECIST 1.1 (decrease 22.5% from
baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
39.8% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
46.3% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease 
40.3%
from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
42.6% from baseline).
-___: CT Torso: Partial response by RECIST 1.1 (decrease
47.7% from baseline).
-___: CT torso: Ongoing partial response comments: No
significant change compared to prior scan. No new lesions. 
-___: CT Torso: PR by RECIST 1.1 
-___: CT Torso: PR by RECIST 1.1: -54.22% change from
baseline and -10.29% change from last scan. 
-___: CT Torso:  partial response: -57.79% from baseline,
-7.79% from nadir
-___: CT Torso shows continued partial response, no
significant change compared to prior

PAST MEDICAL HISTORY (per OMR):
1. Clear cell kidney cancer as above.
2. Benign prostatic hypertrophy.
3. Diabetes mellitus.
4. Hypertension.
5. Hyperlipidemia.
6. History of anxiety.

 
Social History:
___
Family History:
Mother: Died of rectal/colon cancer.
Father: No cancers, history of diabetes.
Other: He has a sister with ovarian cancer diagnosed at age ___
and a brother with liver cancer at age ___ and another brother
with hairy cell leukemia, which is in remission.
 
Physical Exam:
VITAL SIGNS: 97.5 PO 160 / 89 R Sitting 71 18 99 ra
General:  NAD, Resting in bed comfortably with daughter at 
bedside 
___:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy, no icterus
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, trace b/l pitting edema at the distal ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal, speech clear, AOx3
ACCESS: No port
 
Pertinent Results:
___ 06:55AM BLOOD WBC-3.9* RBC-3.12* Hgb-10.5* Hct-33.5* 
MCV-107* MCH-33.7* MCHC-31.3* RDW-16.8* RDWSD-65.9* Plt ___
___ 07:25AM BLOOD WBC-3.0* RBC-3.03* Hgb-10.2* Hct-32.2* 
MCV-106* MCH-33.7* MCHC-31.7* RDW-16.9* RDWSD-66.0* Plt ___
___ 11:30AM BLOOD WBC-3.6* RBC-3.21* Hgb-10.8* Hct-34.9* 
MCV-109* MCH-33.6* MCHC-30.9* RDW-17.0* RDWSD-68.3* Plt ___
___ 06:55AM BLOOD Glucose-121* UreaN-14 Creat-1.2 Na-147 
K-4.5 Cl-106 HCO3-27 AnGap-14
___ 07:25AM BLOOD Glucose-204* UreaN-18 Creat-1.3* Na-140 
K-4.3 Cl-103 HCO3-25 AnGap-12
___ 11:30AM BLOOD UreaN-19 Creat-1.4* Na-139 K-5.3 Cl-101
___ 06:55AM BLOOD ALT-101* AST-47* LD(___)-239 AlkPhos-188* 
TotBili-1.5 DirBili-0.7* IndBili-0.8
___ 09:45PM BLOOD ALT-123* AST-57* LD(LDH)-274* CK(CPK)-106 
AlkPhos-241* TotBili-2.3*
___ 11:30AM BLOOD ALT-133* AST-71* LD(___)-289* 
AlkPhos-259* Amylase-210* TotBili-3.0* DirBili-1.8* IndBili-1.2
___ 09:45PM BLOOD cTropnT-<0.01
___ 11:30AM BLOOD Lipase-252*
___ 06:55AM BLOOD Lipase-63*
___ 06:55AM BLOOD Albumin-3.7 Calcium-9.3 Phos-3.7 Mg-2.0
___ 09:45PM BLOOD calTIBC-306 VitB12-356 Folate->20 
___ Ferritn-597* TRF-235
___ 09:45PM BLOOD Triglyc-207* HDL-30* CHOL/HD-4.7 
LDLcalc-70
___ 11:30AM BLOOD Free T4-1.2
___ 09:45PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 09:45PM BLOOD Smooth-NEGATIVE
___ 09:45PM BLOOD ___
___ 09:45PM BLOOD IgG-666* IgA-165 IgM-120
___ 09:45PM BLOOD HCV Ab-NEG
___ 09:46PM BLOOD Lactate-0.7
___ 11:30AM BLOOD FREE T3-Test      
___ 11:30AM BLOOD Free T4-1.2
 
Brief Hospital Course:
IMAGING: 

RUQ US ___: 
1. Biliary sludge without evidence of gallbladder-wall 
thickening
or intrahepatic biliary dilatation. 
2. No evidence of focal liver lesions

MRCP ___:
1. Moderate intra and extrahepatic biliary ductal dilatation 
with
duct penetrating sign suggestive of inflammatory rather than
neoplastic stricture. Correlation with ERCP may be considered. 
No
evidence of choledocholithiasis or definite obstructing mass. 2.
Short-segment (11 mm) eccentric filling defect within the main
portal vein, suspicious for nonocclusive thrombus. 3. Sludge
within the gallbladder lumen. 4. Status post left nephrectomy
with stable soft tissue within the left nephrectomy bed. 5.
Multiple pancreatic cystic lesions, likely small side branch
IPMNs, measuring up to 10 mm.

ASSESSMENT AND PLAN:
___ w/ ID-T2DM, HTN, DL, BPH, and metastatic clear cell RCC, s/p
radical L nephrectomy in ___, found to have pulmonary,
mediastinal, and hilar mets ___, now on ___, randomized 
to
sunitinib, dose-reduced, currently 2 weeks off sunitinib per
protocol, who is directly admitted from clinic for abnormal LFTs
found on routine lab screening. 

# Elevated LFTs
Non-specific elevations. US did not reveal any focal lesions nor
any biliary dilatation nor stones. Lipase elevated at 252 but in
absence of any abd pain, unlikely pancreatitis. Unlikely
sunitinib effect per oncology. Pt did appear to be lethargic per
oncologist but is AOx3 and no asterixis, but cannot rule out 
some
element of encephalopathy. Found on MRCP to have moderate
intra/extrahepatic biliary ductal dilatation suggestive of
stricture. Hepto wnl and anemia stable, so unlikely hemolysis.
SPEP largely wnl.  

ERCP on ___ revealed stricture in bile duct and had plastic 
biliary
stent placed. He tolerated procedure well. Had no infectious 
symptoms
nor any signs of post-ercp pancreatitis. He was advanced to full 
diet 
and instructed to f/u with oncology for the results of the 
brushings 
done during ERCP. Their team will coordinate a repeat ERCP in 4 
wks. 

# Portal Vein THrombus
MRCP revealed a small non-occlusive filling defect within the
main portal vein suspicious for thrombus. Due to risk of 
progression,
patient was started on once daily dosing lovenox at 1.5 mg/kg.
Due to sphincterotomy during the ERCP, patient was instructed to 

wait 5 days after ercp to start the lovenox. He was provided 
teaching
on how to inject and warning signs while he was here.

# Pancreatic cysts 
Found on MRCP, per radiology, felt to be to be small side branch
Intraductal papillary mucinous neoplasm. 
- f/u in ___ year

# ___
CT scans from ___ revealed partial response to sunitinib. 
- sunitinib is currently on hold
- will f/u w/ Dr ___ 

# Macrocytic Anemia
Chronic and at baseline. TSH WNL as well as VIt B12, Folate,
spep, and ferritin/TIBC.

# Depressed mood/anxiety
- hold cariprazine ___ lfts
- cont fluoxetine

# T2DM: cont home insulin, glipizide 
# HTN: cont amlodipine, atenolol, lisinopril
# DL: hold statin/fibrate
# CKD: cr baseline 
# Hypothyroidism: cont levothyroxine (TSH WNL)
# BPH: cont flomax

FEN: Regular low fat diabetic diet
DVT PROPHYLAXIS: HSQ
ACCESS: PIV 
CODE STATUS: Full code, presumed
PCP: ___, MD
DISPO: Home w/o services
BILLING: 45 min spent coordinating care for discharge
________________
___, D.O.
Heme/Onc Hospitalist
p: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. cariprazine 1.5 mg oral DAILY 
4. Fenofibrate 48 mg PO DAILY 
5. FLUoxetine 20 mg PO DAILY 
6. Gabapentin 100 mg PO DAILY 
7. GlipiZIDE 2.5 mg PO BID 
8. Lantus Solostar U-100 Insulin (insulin glargine) ___ units 
subcutaneous QPM 
9. Levothyroxine Sodium 100 mcg PO DAILY 
10. LORazepam 0.5 mg PO DAILY:PRN anxiety 
11. Ondansetron 4 mg PO Q8H:PRN nausea 
12. Prochlorperazine 5 mg PO Q8H:PRN nausea 
13. Simvastatin 40 mg PO QPM 
14. Tamsulosin 0.4 mg PO QHS 
15. Ascorbic Acid ___ mg PO DAILY 
16. Vitamin D 5000 UNIT PO DAILY 
17. Omeprazole 20 mg PO DAILY 
18. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
19. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 120 mg SC DAILY 
Start: Future Date - ___, First Dose: First Routine 
Administration Time 
RX *enoxaparin 120 mg/0.8 mL 120 mg sc daily Disp #*30 Syringe 
Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Atenolol 100 mg PO DAILY  
6.  cariprazine 1.5 mg oral DAILY  
7.  FLUoxetine 20 mg PO DAILY  
8.  Gabapentin 100 mg PO DAILY  
9.  GlipiZIDE 2.5 mg PO BID  
10.  Lantus Solostar U-100 Insulin (insulin glargine) ___ 
units subcutaneous QPM  
11.  Levothyroxine Sodium 100 mcg PO DAILY  
12.  Lisinopril 40 mg PO DAILY  
13.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
14.  Omeprazole 20 mg PO DAILY  
15.  Ondansetron 4 mg PO Q8H:PRN nausea  
16.  Prochlorperazine 5 mg PO Q8H:PRN nausea  
17.  Tamsulosin 0.4 mg PO QHS  
18.  Vitamin D 5000 UNIT PO DAILY  
19. HELD- Fenofibrate 48 mg PO DAILY  This medication was held. 
Do not restart Fenofibrate until discussed with your oncologist
20. HELD- Simvastatin 40 mg PO QPM  This medication was held. Do 
not restart Simvastatin until discussed with your oncologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary Stricture
Portal Vein Thrombus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the hospital because ___ had abnormal liver 
enzymes. MRI of your liver (MRCP) revealed a narrowing in your 
bile duct, also known as a stricture. ___ had an ERCP (endoscopy 
and a camera into your bile duct) which confirmed a stricture. 
These improved after ___ had an ERCP. ___ had a plastic stent 
placed in your bile duct and ___ tolerated this well. Your liver 
enzymes are already improving. ERCP team will call ___ to 
schedule another ERCP in 4 weeks or so to possibly remove the 
stent. ___ will follow up on the biopsy results with your 
oncology team. ___ were also found to have a clot in one of your 
veins (portal vein) which will need to be treated with a blood 
thinner. ___ will start this ___. Call your oncology team if 
there are any issues or questions. 

Regards,
Your ___ team
 
Followup Instructions:
___